US08426437B2
18.3 g (93.6 mmol) of p-toluenesulfonylmethyl isonitrile followed by a solution of 54 mL (93.6 mmol) of a 20% solution of potassium tert-butoxide in tetrahydrofuran in 700 mL of anhydrous tetrahydrofuran are added to a solution of 20.3 g (93.6 mmol) of (2-oxo-1,2-dihydro-indol-3-ylidene)-ethyl ethanoate dissolved in 340 mL of anhydrous tetrahydrofuran (time of addition 90 minutes). The reaction mixture is refluxed for 1 hour then the solid is filtered. The filtrate is poured into a mixture of ice and water (about 1 L) and the solution is acidified with acetic acid until the pH is 4. The solvents are concentrated by evaporation under vacuum then the solid is filtered and then recrystallized from acetic acid to give 11.05 g (37%) of 4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate cocrystallized with one equivalent of acetic acid in the form of a white solid.

reactant | p-toluenesulfonylmethyl isonitrile | 93.6 mmol, 18.3 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | (2-oxo-1,2-dihydro-indol-3-ylidene)-ethyl ethanoate | 93.6 mmol, 20.3 g | C(C)(=O)OCC=C1C(NC2=CC=CC=C12)=O | C12H11NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 700 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 340 mL | O1CCCC1 | C4H8O
product | 4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 11.05 g, 37% | O=C1NC=2C=CC=CC2C2=C1NC=C2.C(C)C(=O)[O-] | InChI=1S/C11H8N2O.C3H6O2/c14-11-10-8(5-6-12-10)7-3-1-2-4-9(7)13-11;1-2-3(4)5/h1-6,12H,(H,13,14);2H2,1H3,(H,4,5)/p-1
